US04122090
2.1 g of 3-(phenylcarbamyloxy)-4-hydroxy-2,5-diphenylthiophene-1,1-dioxide in 50 ml of o-dichlorobenzene are heated at 150° C. for 2 hours. The phenyl isocyanate formed is then distilled off under reduced pressure produced by a water pump.

reactant | 3-(phenylcarbamyloxy)-4-hydroxy-2,5-diphenylthiophene-1,1-dioxide | 2.1 g | C1(=CC=CC=C1)NC(=O)OC1=C(S(C(=C1O)C1=CC=CC=C1)(=O)=O)C1=CC=CC=C1 | C23H17NO5S
solvent | o-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
